US06894061B2
2-Bromo-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine
A stirred suspension of 5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine (4.27 g, 10 mmol) was heated to 50° C. in glacial acetic acid (20 mL) and treated drop-wise over three hours with excess bromine (8.0 g, 50 mmol). After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, and the precipitate filtered. The organic phase filtrate was washed sequentially with a saturated, aqueous, sodium thiosulfate solution, a 1 N hydrochloric acid solution, and water. The organic phase was further washed sequentially with a 2.5 N aqueous sodium hydroxide solution until a basic extract was obtained, water, and a saturated, aqueous, sodium chloride solution. The organic phase was dried over anhydrous sodium sulfate, filtered through a short column of silica gel, and the solvent removed in vacuo to afford a crude yellow solid (4.0 g, 7.9 mmol, 79%). The crude solid was purified by repetitive preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with dichloromethane at a flow rate of 25 mL/min; to afford, after evaporation of the appropriate fractions, a monobromo compound and a dibromo compound, both as solids. Crystallization of the monobromo compound from a mixture of dichloromethane-diethyl ether-hexane yielded the title compound (1.4 g, 2.76 mmol, 28%) as a homogeneous, colorless, crystalline solid, m.p. 209-211° C.;

reactant | 5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine | 10 mmol, 4.27 g | COC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CC=CC=C1 | C26H21NO3S
reactant | bromine | 50 mmol, 8.0 g | BrBr | Br2
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine | 2.76 mmol, 1.4 g, 28% | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H20BrNO3S
